US05300544
N,N'-Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-N,N'-bis{2-[(5-carboxypentyl)amino]-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine
The title compound is prepared from the reaction of N,N'-bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-N,N'-bis{2-chloro-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine and sodium 6-aminohexanoate.

reactant | N,N'-bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-N,N'-bis{2-chloro-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine | C(CCCCCCC)ON1C(CC(CC1(C)C)N(CCCCCCN(C1=NC(=NC(=N1)Cl)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1=NC(=NC(=N1)Cl)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C88H166Cl2N14O4
reactant | sodium 6-aminohexanoate | NCCCCCC(=O)[O-].[Na+]
product | N,N'-Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-N,N'-bis{2-[(5-carboxypentyl)amino]-4-[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-1,6-hexanediamine | C(CCCCCCC)ON1C(CC(CC1(C)C)N(CCCCCCN(C1=NC(=NC(=N1)NCCCCCC(=O)O)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C1=NC(=NC(=N1)NCCCCCC(=O)O)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C100H190N16O8
